US08445480B2
Step C. Methyl 4-(5-cyano-7-methyl-1,3-benzoxazol-2-yl)benzoate
To a solution of 117 mg of toluenesulfonic acid in 40 ml of dioxane was added 3-amino-4-hydroxy-5-methylbenzonitrile (101 mg) and methyl 4-(chlorocarbonyl)benzoate (149 mg) The mixture was heated to reflux under N2 for 15 h. The mixture was then cooled to room temperature and the dioxane was removed in vacuo. To the residue was added 80 ml of toluene and the solution was heated to reflux overnight (15 h). Purification by flash chromatography (Rf in 2/1 hexanes/ethyl acetate=0.58) on a Biotage Horizon, 65i column, eluting with 1 column volume of 30% ethyl acetate in hexanes, followed by a linear gradient of ethyl acetate in hexanes from 30 to 100% over 10 column volumes provided 134 mg (67%) of the title compound. Mass spectrum (ESI) 293.0 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.35 (d, J=8.2 Hz, 2H), 8.22 (d, J=8.4 Hz, 2H), 7.95 (s, 1H), 7.49 (s, 1H), 3.98 (s, 3H), 2.65 (s, 3H).

reactant | toluenesulfonic acid | 117 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-amino-4-hydroxy-5-methylbenzonitrile | 101 mg | NC=1C=C(C#N)C=C(C1O)C | C8H8N2O
reactant | methyl 4-(chlorocarbonyl)benzoate | 149 mg | ClC(=O)C1=CC=C(C(=O)OC)C=C1 | C9H7ClO3
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | Methyl 4-(5-cyano-7-methyl-1,3-benzoxazol-2-yl)benzoate | 134 mg, 67% | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)OC)C=C2)C1)C | C17H12N2O3
